US08912186B2
To a solution of commercial 2-thiophen-carboxaldehyde (22.4 g) and ethyl acetoacetate (50.5 ml) in ethanol (40 ml) piperidine (4 ml) was added with stirring at rt. The solution was kept at rt for 3 d to form a precipitate. After cooling in the refrigerator the yellow solid was crushed, collected by suction filtration, and washed with ethanol. Drying in vacuo affords 31 g of a faint yellowish solid (the bis-adduct of acetoacetate to the aldehyde). The powdered solid was added in portions to 40% NaOH (500 g) with stirring. The resulting orange coloured slurry was stirred at reflux for 2 h. After cooling in an ice bath the mixture was acidified by portionwise addition of conc. HCl (440 ml) to give a colourless precipitate. The solid was collected by suction filtration and washed with water. After drying in vacuo 3-(2-thienyl)glutaric acid (9.7 g) was obtained. The suspension of finely divided 3-(2-thienyl)glutaric acid in acetyl chloride (17 ml) was heated to reflux with stirring for 1 h. After cooling to rt precipitation of the product is induced by addition of petrol ether (100 ml). The precipitate is isolated by suction filtration, washed with petrol ether, and dried in vacuo to give 3-(2-thienyl)glutaric anhydride (8.2 g) as colourless crystals.

reactant | NaOH | 500 g | [OH-].[Na+]
reactant | HCl | 440 ml | Cl | ClH
reactant | 3-(2-thienyl)glutaric acid | S1C(=CC=C1)C(CC(=O)O)CC(=O)O | C9H10O4S
solvent | acetyl chloride | 17 ml | C(C)(=O)Cl | C2H3ClO
product | 3-(2-thienyl)glutaric anhydride | 8.2 g | S1C(=CC=C1)C1CC(=O)OC(C1)=O | C9H8O3S
